US05587319
To measure the D-aminoacid transaminase activity, D-α-aminoadipic acid (20 mmolar), α-ketoglutarate (10 mmolar) and pyridoxal phosphate (10 μg/ml) are incubated with the enzyme in potassium phosphate buffer (10 mmolar), pH 8, at a temperature of 37° C. This results in the formation of D-glutamic acid which can be determined by thin-layer chromatography after spraying with ninhydrin.

reactant | D-α-aminoadipic acid | 20 mmolar | C(CC(C(=O)O)N)CC(=O)O | C6H11NO4
reactant | α-ketoglutarate | 10 mmolar | O=C(C(=O)[O-])CCC(=O)[O-]
reactant | pyridoxal phosphate | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
solvent | potassium phosphate | 10 mmolar | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | D-glutamic acid | N[C@H](CCC(=O)O)C(=O)O | C5H9NO4
